### PR TITLE
[Merged by Bors] - fix: squeeze a few more non-terminal simps

### PR DESCRIPTION
**Pull request by grunweg**
---

Found by the flexible linter in #28962.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Control/EquivFunctor/Instances.lean [hunk 1]
```diff
@@ -31,7 +31,9 @@ instance EquivFunctorFinset : EquivFunctor Finset where
   map e s := s.map e.toEmbedding
   map_refl' α := by ext; simp
   map_trans' k h := by
-    ext _ a; simp; constructor <;> intro h'
+    ext _ a
+    simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/EquivFunctor/Instances.lean]: ?

File: Mathlib/Data/ENat/Basic.lean [hunk 2]
```diff
@@ -249,10 +249,11 @@ theorem toNat_sub {n : ℕ∞} (hn : n ≠ ⊤) (m : ℕ∞) : toNat (m - n) = t
...
 
 @[simp] theorem toNat_mul (a b : ℕ∞) : (a * b).toNat = a.toNat * b.toNat := by
-  cases a <;> cases b <;> simp
-  · rename_i b; cases b <;> simp
-  · rename_i a; cases a <;> simp
-  · rw [← coe_mul, toNat_coe]
+  cases a <;> cases b
+  · simp
+  · simp; rename_i b; cases b <;> simp
+  · simp; rename_i a; cases a <;> simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENat/Basic.lean]:
```suggestion
  · rename_i b; cases b <;> simp
  · rename_i a; cases a <;> simp
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/Algebra/Category/Grp/Adjunctions.lean [hunk 3]
```diff
@@ -70,7 +70,8 @@ def adj : free ⊣ forget AddCommGrp.{u} :=
       homEquiv_naturality_left_symm := by
         intros
         ext
-        simp
+        simp only [free_obj_coe, Equiv.symm_trans_apply, Equiv.symm_symm, hom_comp,
+          AddMonoidHom.coe_comp, Function.comp_apply]
         apply FreeAbelianGroup.lift_comp }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/Grp/Adjunctions.lean:75]:
```suggestion
        simpa using FreeAbelianGroup.lift_comp .. }
```
surely?

File: Mathlib/CategoryTheory/FiberedCategory/Cocartesian.lean [hunk 4]
```diff
@@ -357,7 +357,7 @@ noncomputable def codomainIsoOfBaseIso {R S S' : 𝒮} {a b b' : 𝒳} {f : R 
     [IsStronglyCocartesian p f' φ'] : b ≅ b' where
   hom := map p f φ h φ'
   inv := @map _ _ _ _ p _ _ _ _ f' φ' _ _ _ _ _ (congrArg (· ≫ g.inv) h.symm) φ
-    (by simp; infer_instance)
+    (by simp only [assoc, Iso.hom_inv_id, comp_id]; infer_instance)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/FiberedCategory/Cocartesian.lean:360]: Isn't `infer_instance` flexible?

File: Mathlib/Data/List/Sym.lean [hunk 5]
```diff
@@ -161,7 +161,8 @@ theorem map_mk_disjoint_sym2 (x : α) (xs : List α) (h : x ∉ xs) :
       rw [List.mem_map] at hx hy
       obtain ⟨a, hx, rfl⟩ := hx
       obtain ⟨b, hy, hx⟩ := hy
-      simp [Ne.symm h.1] at hx
+      simp only [Sym2.eq, Sym2.rel_iff', Prod.mk.injEq, Ne.symm h.1, false_and, Prod.swap_prod_mk,
+        false_or] at hx
       obtain ⟨rfl, rfl⟩ := hx
```
Comment (YaelDillies) [inline Mathlib/Data/List/Sym.lean:166]:
```suggestion
      obtain ⟨rfl, rfl⟩ : ? = ?_ \and ?_ = ?_ := by simpa using hx
```
maybe?

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean [hunk 6]
```diff
@@ -73,7 +73,7 @@ noncomputable def ConditionallyCompleteLinearOrder.toSuccOrder [WellFoundedLT α
     rw [not_isMax_iff] at h
     exact hs.not_gt (csInf_mem h)
   succ_le_of_lt {a b} ha := by
-    simp [ha.not_isMax]
+    simp only [ha.not_isMax, ↓reduceIte]
     exact csInf_le ⟨a, fun _ hc => hc.le⟩ ha
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/CompleteLinearOrder.lean:77]:
```suggestion
    simpa [ha.not_isMax] using csInf_le ⟨a, fun _ hc => hc.le⟩ ha
```
?

File: Mathlib/CategoryTheory/FiberedCategory/Cocartesian.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/CategoryTheory/FiberedCategory/Cocartesian.lean:360]: The linter complained about it, so no. (Feel free to propose making it flexible, and we can discuss.)

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Order/SuccPred/CompleteLinearOrder.lean:77]: Nope, doesn't work.

File: Mathlib/Data/List/Sym.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Data/List/Sym.lean:166]: Doesn't work...

File: Mathlib/Algebra/Category/Grp/Adjunctions.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Algebra/Category/Grp/Adjunctions.lean:75]: This one works: #29016

**Comment by grunweg** [comment]
Thanks for the post-merge feedback also.
